US08470786B2
Step 2: Preparation of methyl[6-(acetyloxy)-5,6-dihydro-4H-pyrrolo[3,2,1-ij]quinolin-1-yl](oxo)acetate
To a solution of ethyl (6-bromo-5,6-dihydro-4H-pyrrolo[3,2,1-ij]quinolin-1-yl)(oxo)acetate (890 mg, 2.76 mmol) in dimethylformamidine (20 mL) at 0° C. was added silver acetate (458 mg, 2.76 mmol). The reaction mixture was allowed to warm to room temperature and stirred for 2 hr. The mixture was filtered through Celite and rinsed with ethyl acetate (100 mL). The filtrated was diluted with water (100 mL) and extracted with ethyl acetate (3×100 mL). The combined organic layers were washed saturated aqueous sodium chloride solution (50 mL) dried over anhydrous sodium sulfate, and evaporated to dryness. The residue was purified by silica gel chromatography, eluting with a ethyl acetate/hexanes (10-60%) to methyl[6-(acetyloxy)-5,6-dihydro-4H-pyrrolo[3,2,1-ij]quinolin-1-yl](oxo)acetate as a yellow solid (326 mg, 39%). Mp: 165-168° C.; 1H NMR (CDCl3) 400 MHz δ: 8.39 (s, 1H), 8.29 (d, J=7.4 Hz, 1H), 7.31-7.36 (m, 2H), 6.22 (t, J=3.5 Hz, 1H), 4.33-4.36 (m, 2H), 4.41-4.43 (m, 1H), 3.95 (s, 3H), 2.44-2.47 (m, 1H), 2.36-2.39 (m, 1H); LCMS [M+H]: 302.

reactant | ethyl (6-bromo-5,6-dihydro-4H-pyrrolo[3,2,1-ij]quinolin-1-yl)(oxo)acetate | 2.76 mmol, 890 mg | BrC1CCN2C3=C(C=CC=C13)C(=C2)C(C(=O)OCC)=O | C15H14BrNO3
solvent | dimethylformamidine | 20 mL | CN(C=N)C | C3H8N2
catalyst | silver acetate | 2.76 mmol, 458 mg | C(C)(=O)[O-].[Ag+]
product | methyl[6-(acetyloxy)-5,6-dihydro-4H-pyrrolo[3,2,1-ij]quinolin-1-yl](oxo)acetate | COC(C(=O)C1=CN2CCC(C3=CC=CC1=C23)OC(C)=O)=O | C16H15NO5
